US06492403B1
(tert-Butoxy)-N-(imino{4-[2-({3-[(3-methylpiperidyl)methyl]phenyl}amino)(1,3-thiazol-4-yl)]-5-methylthio(2-thienyl)}methyl)carboxamide (8.2 mg, 0.014 mmol) was stirred 2 mL of a 10% 3N HCl-ethyl acetate solution at 0° C. for 30 min., at which time the solvent was removed in vacuo to give 8 mg (100% yield) of the 4-[2-({3-[(3-methylpiperidyl)methyl]phenyl}amino)(1,3-thiazol-4-yl)]-5-methylthiothiophene-2-carboxamidine hydrochloride. 1H NMR (DMSO-d6, 300 MHz) δ0.83 (d, 3H, J=5.6 Hz), 1.54-2.48 (m, 5H), 2.52-2.63 (m, 4H), 2.66 (s, 3H), 4.23 (d, 2H, J=4.8 Hz), 7.15-7.23 (m, 2H), 7.41 (t, 1H, J=7.8 Hz), 7.86-7.92 (m, 2H), 8.63 (s, 1H), 9.01 (bs, 2H), 9.42 (bs, 2H), 10.63 (s, 1H); (Mass Spectrum (ESI) m/z calcd. for C22H27N5S3, 457.7 (M+H), found 458.2.

reactant | (tert-Butoxy)-N-(imino{4-[2-({3-[(3-methylpiperidyl)methyl]phenyl}amino)(1,3-thiazol-4-yl)]-5-methylthio(2-thienyl)}methyl)carboxamide | 0.014 mmol, 8.2 mg | C(C)(C)(C)OC(=O)NC(C=1SC(=C(C1)C=1N=C(SC1)NC1=CC(=CC=C1)CN1CC(CCC1)C)SC)=N | C27H35N5O2S3
reactant | HCl ethyl acetate | 3N | Cl.C(C)(=O)OCC
product | 4-[2-({3-[(3-methylpiperidyl)methyl]phenyl}amino)(1,3-thiazol-4-yl)]-5-methylthiothiophene-2-carboxamidine hydrochloride | 8 mg, 100% yield | Cl.CC1CN(CCC1)CC=1C=C(C=CC1)NC=1SC=C(N1)C=1C=C(SC1SC)C(=N)N | InChI=1S/C22H27N5S3.ClH/c1-14-5-4-8-27(11-14)12-15-6-3-7-16(9-15)25-22-26-18(13-29-22)17-10-19(20(23)24)30-21(17)28-2;/h3,6-7,9-10,13-14H,4-5,8,11-12H2,1-2H3,(H3,23,24)(H,25,26);1H
